US07910561B2
3-Phenyl-2-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)-1,7-naphthyridin-8(7H)-one (5-6)
To a solution of 2-(3-piperidin-4-yl-1H-1,2,4-triazol-5-yl)pyridine dihydro-chloride (46 mg, 0.15 mmol) and 4-(8-oxo-3-phenyl-7,8-dihydro-1,7-naphthyridin-2-yl)benzaldehyde (40 mg, 0.12 mmol) in dry DMF (0.5 mL) was added triethylamine (55 μL, 0.40 mmol). After stirring for 10 minutes acetic acid (70 μL, 1.20 mmol) was added and the mixture was stirred at room temperature over night. Then sodium triacetoxy borohydride (52 mg, 0.24 mmol) was added in one portion. After two hours the reaction was complete and some methanol was added. This reaction mixture was concentrated to a smaller volume and adsorbed on silica gel and purified by column chromatography eluting with 0.5-13% methanol/ethyl acetate (sat'd NH3). The appropriate fractions were combined and the solvents removed in vacuo. The residue was triturated with diethyl ether to give pure title compound as a white solid. 1H NMR (500 MHz, DMSO-d6): δ 14.34 (1H, br s), 11.56 (1H, d, J=5.6 Hz), 8.68 (1H, br s), 8.15 (1H, s), 8.03 (1H, m), 7.96 (1H, m), 7.50 (1H, br s), 7.22-7-38 (10H, m), 6.62 (1H, d, J=6.8 Hz), 3.49 (2H, s), 2.84 (2H, brm), 2.69 (1H, m), 2.07 (2H, brt, J=11 Hz), 1.94 (2H, m), 1.78 (2H, m). m/e (m+1): 540.3, 270.8 [(m+2)/2].

reactant | 2-(3-piperidin-4-yl-1H-1,2,4-triazol-5-yl)pyridine dihydro-chloride | 0.15 mmol, 46 mg | Cl.Cl.N1CCC(CC1)C1=NNC(=N1)C1=NC=CC=C1
reactant | 4-(8-oxo-3-phenyl-7,8-dihydro-1,7-naphthyridin-2-yl)benzaldehyde | 0.12 mmol, 40 mg | O=C1NC=CC=2C=C(C(=NC12)C1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C21H14N2O2
reactant | triethylamine | 0.40 mmol, 55 μL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 1.20 mmol, 70 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxy borohydride | 0.24 mmol, 52 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 3-Phenyl-2-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)-1,7-naphthyridin-8(7H)-one | C1(=CC=CC=C1)C=1C(=NC=2C(NC=CC2C1)=O)C1=CC=C(C=C1)CN1CCC(CC1)C1=NNC(=N1)C1=NC=CC=C1 | C33H29N7O
